US06066641
b) 3-(4-Chlorobenzyl)-N6 -ethyl-8-isopropyl-isoguanine
5.02 g of 3-(4-chlorobenzyl)-8-isopropyl-6-thioxanthine and 60 ml of 70% ethylamine in water was heated in a 450 ml reactor to 150° C.: the pressure rose to 270 psi. After 20 hours the reaction mixture was cooled, filtered and evaporated to dryness. The residue was taken up in water, acidified with 2N HCl to pH 2, and neutralized with 2N NaOH to pH 7. The solid was collected, washed, redissolved in a mixture of 20 ml of methanol, 20 ml of THF and 100 ml of 2N NaOH, treated with 0.5 g of charcoal and filtered. Methanol and THF were removed in vacuo, and the solution neutralized to pH 7 with 5N HCl. The amorphous solid was collected, washed and dried to give the crude product (5.70 g). Recrystallization from methanol gave the title compound (4.42 g) as an off-white solid mp 187-196° C.;

reactant | 3-(4-chlorobenzyl)-8-isopropyl-6-thioxanthine | 5.02 g | ClC1=CC=C(CN2C(NC(C=3NC(=NC23)C(C)C)=S)=O)C=C1 | C15H15ClN4OS
reactant | ethylamine | 60 ml | C(C)N | C2H7N
solvent | water | O | H2O
product | 3-(4-Chlorobenzyl)-N6 -ethyl-8-isopropyl-isoguanine | 4.42 g | ClC1=CC=C(CN2C(N=C(C=3NC(=NC23)C(C)C)NCC)=O)C=C1 | C17H20ClN5O
